US04501687
Using the procedure of Example 3, 5 g of 3-hydroxy cyclopentyl-acetaldehyde and 20 g of triphenyl propyl phosphonium bromide were reacted and the product was chromatographed over silica gel. Elution with a 7-3 cyclohexane-ethyl acetate mixture yielded 1.5 g of 3-(2-pentenyl)-cyclopentanol.

reactant | 3-hydroxy cyclopentyl-acetaldehyde | 5 g | OC1CC(CC1)CC=O | C7H12O2
reactant | triphenyl propyl phosphonium bromide | 20 g | [Br-].C1(=CC=CC=C1)[P+](CCC)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(2-pentenyl)-cyclopentanol | 1.5 g | C(C=CCC)C1CC(CC1)O | C10H18O
